US05506267
(4-(6,7-dihydroxy-4-thiaheptanoylamino)benzoyl)glutamic acid di-t-butyl ester
To a solution of 2,2'-dithiobis[(4-((1,3-bis(t-butoxycarbonyl)propyl) carbamoyl)phenyl)carbamoylethane] as obtained in Reference Example 5 (603 mg) in chloroform (6.8 ml), triethylamine (0.29 ml) and dithioerythritol (421 mg) were added at room temperature, followed by stirring at room temperature for 4 hours in a nitrogen stream. After addition of a 5% aqueous solution of citric acid, the reaction mixture was extracted with methylene chloride. The extract was washed with saturated saline, and dried over anhydrous sodium sulfate, and the solvent was distilled off. To a solution of the residue in dimethylformamide (24 ml), triethylamine (0.48 ml) and 1-bromoglycerol (623 mg) were added at room temperature, followed by stirring at 80° C. for 34 hours. After cooling and addition of water, the reaction mixture was extracted with ethyl acetate. The extract was washed with a 5% aqueous solution of citric acid, a saturated aqueous solution of sodium hydrogen carbonate and saturated saline, and dried over anhydrous sodium sulfate, and the solvent was distilled off. The residue was purified by silica gel chromatography (ethyl acetate) to yield the title compound (329 mg, yield 45%) as a white powder.

reactant | 2,2'-dithiobis[(4-((1,3-bis(t-butoxycarbonyl)propyl) carbamoyl)phenyl)carbamoylethane] | C(C)(C)(C)OC(=O)C(CCC(=O)OC(C)(C)C)NC(=O)C1=CC=C(C=C1)NC(=O)CCSSCCC(NC1=CC=C(C=C1)C(NC(CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O)=O | C46H66N4O12S2
reactant | dithioerythritol | 421 mg | SC[C@H](O)[C@H](O)CS | C4H10O2S2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | chloroform | 6.8 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 0.29 ml | C(C)N(CC)CC | C6H15N
product | (4-(6,7-dihydroxy-4-thiaheptanoylamino)benzoyl)glutamic acid di-t-butyl ester | 329 mg, yield 45% | C(C)(C)(C)OC([C@@H](NC(C1=CC=C(C=C1)NC(CCSCC(CO)O)=O)=O)CCC(=O)OC(C)(C)C)=O | C26H40N2O8S
